US04315016
1-p-Chlorophenyl-1-benzyloxy-2-(1,2,4-triazol-1-yl)-ethane (Compound 21)
Following the procedure of Example 9, Step 2, 1-p-chlorophenyl-2-(1,2,4-triazol-1-yl)-ethanol (4.48 g), benzyl chloride (2.54 g) and sodium hydride (1 g; 50%) were reacted to give the title compound as a crystalline solid.

reactant | 1-p-chlorophenyl-2-(1,2,4-triazol-1-yl)-ethanol | 4.48 g | ClC1=CC=C(C=C1)C(CN1N=CN=C1)O | C10H10ClN3O
reactant | benzyl chloride | 2.54 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydride | 1 g | [H-].[Na+]
product | 1-p-Chlorophenyl-1-benzyloxy-2-(1,2,4-triazol-1-yl)-ethane | ClC1=CC=C(C=C1)C(CN1N=CN=C1)OCC1=CC=CC=C1 | C17H16ClN3O
